data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3547,4045,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C:11]([CH3:12])=[NH+:13][C-:14]([CH3:15])[C:16]([CH3:17])=[O:18]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:14]([CH3:15])([C:16]([CH3:17])=[O:18])[NH:13][C:11]1([C:9]([NH:8][CH3:7])=[O:10])[CH3:12],water,298.15,26.041546814077968,-19.875754511275588
4076,4667,[CH3:9][O:10][C:11](=[O:12])[C:13]([CH3:14])=[NH+:15][C-:16]([CH3:17])[C:18](=[O:19])[O:20][CH3:21].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:16]([CH3:17])([C:18](=[O:19])[O:20][CH3:21])[NH:15][C:13]1([C:11]([O:10][CH3:9])=[O:12])[CH3:14],water,298.15,17.84277601099901,-20.962255054680995
3338,3786,[CH2:1]=[CH2:2].[CH3:3][O:4][C:5](=[O:6])[C-:7]([C:8]#[N:9])[O+:10]=[C:11]([C:12]([CH3:13])=[O:14])[C:15]([CH3:16])=[O:17]>>[CH2:1]1[CH2:2][C:7]([C:5]([O:4][CH3:3])=[O:6])([C:8]#[N:9])[O:10][C:11]1([C:12]([CH3:13])=[O:14])[C:15]([CH3:16])=[O:17],water,298.15,4.623564125486345,-54.114927142067394
4789,5467,[CH3:10][C-:11]([c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1)[N+:18]([CH3:19])=[CH:20][c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:11]([CH3:10])([c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)[N:18]([CH3:19])[CH:20]1[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,19.06004968461704,-25.731873486348302
2998,3350,[CH3:10][N-:11][N+:12]#[N:13].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[N:13]=[N:12][N:11]1[CH3:10],water,298.15,34.55412544373193,-3.0036738133542893
4287,4904,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][N-:12][O+:13]=[C:14]([C:15](=[O:16])[NH:17][CH3:18])[C:19](=[O:20])[O:21][CH3:22]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[N:12]([CH3:11])[O:13][C:14]2([C:15](=[O:16])[NH:17][CH3:18])[C:19](=[O:20])[O:21][CH3:22],water,298.15,14.513179879683433,-34.62005783792996
4904,5588,[CH3:10][O:11][C:12](=[O:13])[CH-:14][O+:15]=[C:16]([C:17](=[O:18])[O:19][CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[CH:14]([C:12]([O:11][CH3:10])=[O:13])[O:15][C:16]1([C:17](=[O:18])[O:19][CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,12.831059098023731,-43.6116671075214
575,631,[CH3:13][CH-:14][N+:15]#[C:16][C:17](=[O:18])[NH:19][CH3:20].[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[F:1][C:2]([F:3])([F:4])[C:5]12[C:6]([Cl:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[CH:14]([CH3:13])[N:15]=[C:16]2[C:17](=[O:18])[NH:19][CH3:20],water,298.15,13.99723127589536,-46.37043260449233
1896,2101,[CH3:16][O:17][C:18](=[O:19])[CH:20]=[N+:21]([CH3:22])[C-:23]([C:24]#[N:25])[C:26](=[O:27])[O:28][CH3:29].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[CH:11]2[CH:12]=[CH:13][CH:14]1[O:15]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[CH:11]2[CH:12]3[CH:13]([CH:14]1[O:15]2)[CH:20]([C:18]([O:17][CH3:16])=[O:19])[N:21]([CH3:22])[C:23]3([C:24]#[N:25])[C:26](=[O:27])[O:28][CH3:29],water,298.15,28.203287521050548,-29.11796560164228
1570,1736,[CH3:13][NH:14][C:15](=[O:16])[C:17]([CH3:18])=[NH+:19][CH-:20][C:21]([CH3:22])=[O:23].[CH3:1][C:2](=[O:3])[C:4]1([Br:5])[C:6]#[C:7][CH2:8][CH2:9][CH2:10][CH2:11][CH2:12]1>>[CH3:1][C:2](=[O:3])[C:4]1([Br:5])[C:6]2=[C:7]([CH2:8][CH2:9][CH2:10][CH2:11][CH2:12]1)[C:17]([C:15]([NH:14][CH3:13])=[O:16])([CH3:18])[NH:19][CH:20]2[C:21]([CH3:22])=[O:23],water,298.15,16.42005481867885,-42.37287501569953
3388,3848,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[O:7]=[c:8]1[o:9][n:10][o+:11][c-:12]1-[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[N:10]2[O:9][C:8](=[O:7])[C:12]1([c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1)[O:11]2,water,298.15,23.42155530518607,-7.306635794683612
156,173,[CH3:1][C:2](=[O:3])[C:4]#[C:5][F:6].[CH3:7][NH:8][C:9](=[O:10])[c:11]1[nH+:12][c-:13]([C:14]#[N:15])[c:16](=[O:17])[o:18]1>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([F:6])[C:13]2([C:14]#[N:15])[NH:12][C:11]1([C:9]([NH:8][CH3:7])=[O:10])[O:18][C:16]2=[O:17],water,298.15,20.86408110110721,-24.295855166177784
4928,5613,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][NH:8][C:9](=[O:10])[C:11](=[O+:12][C-:13]([C:14](=[O:15])[O:16][CH3:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[C:24]([CH3:25])=[O:26]>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[C:13]([C:14](=[O:15])[O:16][CH3:17])([c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[O:12][C:11]1([C:9]([NH:8][CH3:7])=[O:10])[C:24]([CH3:25])=[O:26],water,298.15,21.427755461377547,-28.91713283469044
